US06479172B2
To a solution of 9-phenylanthracene (10 grams) and ferric chloride (0.065 gram) in 100 milliliters of dichloromethane were added 6.70 grams of bromine in 30 milliliters of dichloromethane through an addition funnel at room temperature. The reaction mixture was stirred for 3 hours, and then washed with aqueous sodium thiosulfate and water. After removal of the solvents, the crude residue was recrystallized from ethanol to yield 12.5 grams of 10-bromo-9-phenylanthracene. The structure of this compound was confirmed by proton NMR analysis.

reactant | 9-phenylanthracene | 10 grams | C1(=CC=CC=C1)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C20H14
reactant | bromine | 6.70 grams | BrBr | Br2
solvent | dichloromethane | 100 milliliters | ClCCl | CH2Cl2
solvent | dichloromethane | 30 milliliters | ClCCl | CH2Cl2
product | 10-bromo-9-phenylanthracene | 12.5 grams | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=CC=C1 | C20H13Br
